US05840732
i) Synthesis of 5-carboethoxymethylene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione
To a solution of 3.21 g (10 mmol) of 3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione and 1.12 g (11 mmol) of ethylglycolic acid in 50 ml of ethanol, 0.01 ml (1.0 mmol) of piperidine was added, followed by refluxing for 16 hours. After the reaction mixture was cooled, the solvent was distilled off. The residue was dissolved in chloroform, washed with saturated aqueous sodium hydrogen carbonate and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, n-hexane/ethyl acetate=1/1→1/4→ethyl acetate) to yield 0.70 g (17.3%, yellow crystal) of the desired product.

reactant | 3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | 10 mmol, 3.21 g | N=1C=CN2C1C=CC=C2SCCCCN2C(SCC2=O)=O | C14H15N3O2S2
reactant | ethylglycolic acid | 11 mmol, 1.12 g | C(C)C(C(=O)O)O | C4H8O3
reactant | piperidine | 1.0 mmol, 0.01 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-carboethoxymethylene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | C(=O)(OCC)C=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C18H19N3O4S2
